US04544453
A straight batch distillation employing a 20 tray Oldershaw column at a reflux ratio of 10/1 at atmospheric pressure with a pot temperature of 140°-146° C. and an overhead temperature of 115°-140° C. was carried out on a reaction mixture resulting from an acid catalyzed esterification of propylene glycol monomethyl ether (PM) and acetic acid to produce propylene glycol monomethyl acetate (PMA). The reaction mixture contained on a percent by weight basis 97.2% propylene glycol monomethyl ether acetate, 2.0% unreacted acetic acid, 0.1% unreacted propylene glycol monomethyl ether and 0.7% p-toluene sulfonic acid catalyst. The distillation was carried out for 1 hour and a 14% overhead cut taken. The results were as follows:

reactant | propylene glycol monomethyl ether | COCC(C)O | C4H10O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | propylene glycol monomethyl acetate | CCC(=O)O.C(C(C)O)O | InChI=1S/C3H8O2.C3H6O2/c1-3(5)2-4;1-2-3(4)5/h3-5H,2H2,1H3;2H2,1H3,(H,4,5)
